US04816452
a. Ethyl (Z)-2-(tetrahydrothien-3-yloxyimino)-3-oxobutyrate
Ethyl (Z)-2-hydroxyimino-3-oxobutyrate (1.68 g) was treated with 3-bromotetrahydrothiophene as described in Example 4a, method 2, to give the title compound (1.7 g, 68%) as a colourless liquid; [Found M+ 245.0719, C10H15NO4S requires M 245.0722]. νmax (film) 2890, 2940, 1745, 1695, and 1600 cm-1. δH (CDCl3) 1.33 (3H, t), 2.02 (1H, m), 2.41 (3H, s), 2.47 (1H, m), 2.89 (2H, m), 3.13 (2H, m), 4.35 (2H, q), and 5.14 (1H, m). δc (CDCl3) 14.1, 25.2, 28.6, 35.7, 62.0, 88.3, 150.8, 60.7, and 192.6.

reactant | Ethyl (Z)-2-hydroxyimino-3-oxobutyrate | 1.68 g | O\N=C(/C(=O)OCC)\C(C)=O | C6H9NO4
reactant | 3-bromotetrahydrothiophene | BrC1CSCC1 | C4H7BrS
product | Ethyl (Z)-2-(tetrahydrothien-3-yloxyimino)-3-oxobutyrate | 1.7 g, 68% | S1CC(CC1)O\N=C(/C(=O)OCC)\C(C)=O | C10H15NO4S
